US09315495B2
5-Isopentyl-1H-indole-2-carbaldehyde was synthesized as in Example 3.1 using 5-bromo-1H-indole-2-carbaldehyde (300 mg, 1.34 mmol) in place of 5-bromo-2-formylfuran and isopentylboronic acid (256 mg, 2.21 mmol) in place of hexylboronic acid to give 5-isopentyl-1H-indole-2-carbaldehyde (107 mg, 37%). Used without further characterization.

reactant | 5-bromo-1H-indole-2-carbaldehyde | 1.34 mmol, 300 mg | BrC=1C=C2C=C(NC2=CC1)C=O | C9H6BrNO
reactant | isopentylboronic acid | 2.21 mmol, 256 mg | C(CC(C)C)B(O)O | C5H13BO2
product | 5-isopentyl-1H-indole-2-carbaldehyde | 107 mg, 37% | C(CC(C)C)C=1C=C2C=C(NC2=CC1)C=O | C14H17NO
